US03975535
8-Methylisocoumarin-3-carboxylic acid, mp. (EtOH-H2O) 236°-7°, (Found: C, 64.66; H, 3.95. C11H8O4 requires C, 64.70; H, 3.95), was prepared from 2-carboxy-3-methylbenzaldehyde by an analogous procedure to that described in Example 1.

reactant | 2-carboxy-3-methylbenzaldehyde | C(=O)(O)C1=C(C=O)C=CC=C1C | C9H8O3
solvent | EtOH-H2O | C(C)O.O
product | 8-Methylisocoumarin-3-carboxylic acid | CC=1C=CC=C2C=C(OC(=O)C12)C(=O)O | C11H8O4
